US04888418
In 30 ml of pyridine was dissolved 1 g of 4-piperidone hydrochloride, and 10 ml of trifluoroacetic anhydride was added on an ice bath. After addition, the mixture was stirred at room temperature for 15 hours, diluted with water and extracted with chloroform. The chloroform layer was washed with 0.01 N aqueous NaOH, 0.01 N aqueous HCl and water, dried and then concentrated to dryness to obtain 0.93 g of N-trifluoroacetyl-4-piperidone (m.p. 68° C., IR: 1730, 1720, 1690 cm-1).

reactant | 4-piperidone hydrochloride | 1 g | Cl.N1CCC(CC1)=O
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-trifluoroacetyl-4-piperidone | 0.93 g | FC(C(=O)N1CCC(CC1)=O)(F)F | C7H8F3NO2
